US08067450B2
Step 3: 5-{4-[2-hydroxy-2-(3-methoxyphenyl)ethoxy]benzylidene}-1,3-thiazolidine-2,4-dione
To a stirring solution of 4-[2-hydroxy-2-(3-methoxyphenyl)ethoxy]benzaldehyde (1.76 g, 6.46 mmol) in absolute EtOH (50 ml) was added 2,4-thiazolidinedione (0.83 g, 7.11 mmol) and piperidine (0.70 mL, 7.11 mmol), and the resulting solution was heated to reflux. The reaction was refluxed overnight and then evaporated in vacuo. The residue was dissolved in EtOAc and this solution was washed with water (pH adjusted to ca. 5-6 with HOAc), brine, dried (Na2SO4), filtered and adsorbed onto silica gel. After chromatography with 20-30% EtOAc/DCM, the fractions containing compound were combined and evaporated in vacuo to give 1.38 g (58%) of the title compound as a yellow solid. MS (ESI−) for C19H17NO5S m/z 370.1 (M−H)−.

reactant | 4-[2-hydroxy-2-(3-methoxyphenyl)ethoxy]benzaldehyde | 6.46 mmol, 1.76 g | OC(COC1=CC=C(C=O)C=C1)C1=CC(=CC=C1)OC | C16H16O4
reactant | 2,4-thiazolidinedione | 7.11 mmol, 0.83 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 7.11 mmol, 0.70 mL | N1CCCCC1 | C5H11N
solvent | EtOH | 50 ml | CCO | C2H6O
product | 5-{4-[2-hydroxy-2-(3-methoxyphenyl)ethoxy]benzylidene}-1,3-thiazolidine-2,4-dione | 1.38 g, 58% | OC(COC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1)C1=CC(=CC=C1)OC | C19H17NO5S
